US08609657B2
6-Chloro-4-(5-{[(2R,6R)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole
To a solution of 4-[5-(bromomethyl)-1,3-oxazol-2-yl]-6-chloro-1-(phenylsulfonyl)-1H-indazole (750 mg, 1.657 mmol) in dichloromethane (50 mL) stirred in air at room temp, was added neat 2,6-dimethylmorpholine (191 mg, 1.657 mmol, available from Aldrich as a mixture of isomers). The reaction mixture was stirred at 20° C. for 20 hr. Volatiles were removed using a rotary evaporator then the crude material was pre-absorbed onto Fluorosil™ and purified by column chromatography on silica (100 g) using a 0-100% ethyl acetate-cyclohexane gradient over 60 mins. Two diastereoisomers were isolated. Appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow oil (226 mg).

reactant | 4-[5-(bromomethyl)-1,3-oxazol-2-yl]-6-chloro-1-(phenylsulfonyl)-1H-indazole | 1.657 mmol, 750 mg | BrCC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H11BrClN3O3S
reactant | 2,6-dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-Chloro-4-(5-{[(2R,6R)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 226 mg | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1C[C@H](O[C@@H](C1)C)C | C23H23ClN4O4S
